US07022707B2
cis-2,6-Dimethyl-piperazine-1-carboxylic acid 2,4-difluoro-2′-methoxy-biphenyl-3-ylmethyl ester
A mixture of 46.33 mg (0.1 mmol) cis-2,6-dimethyl-piperazine-1,4-dicarboxylic acid 1-(3-bromo-2,6-difluoro-benzyl) ester 4-tert-butyl ester, 16.71 mg (0.11 mmol) 2-methoxyphenylboronic acid, 3.65 mg (0.005 mmol) dichloro(1,1′-bis(diphenylphosphino) ferrocene)palladium (II) dichloromethane adduct and 0.11 ml of a 2M Na2CO3 aq. solution in 1.2 ml dioxane was heated for 17 h to 85° C. The mixture was filtered and 0.15 ml 4N HCl in dioxane was added and the mixture heated for 3 h to 65° C. After cooling to ambient temperature 0.2 ml triethylamine and water were added to dissolve the mixture. The solution was subjected to reversed phase preparative HPLC eluting with a water/acetonitrile gradient to yield after evaporation of the solvents 28.2 mg (66%) of the title compound. MS (ISP): 391 MH+

reactant | cis-2,6-dimethyl-piperazine-1,4-dicarboxylic acid 1-(3-bromo-2,6-difluoro-benzyl) ester 4-tert-butyl ester | 0.1 mmol, 46.33 mg | C(C)(C)(C)OC(=O)N1C[C@@H](N([C@@H](C1)C)C(=O)OCC1=C(C(=CC=C1F)Br)F)C | C19H25BrF2N2O4
reactant | 2-methoxyphenylboronic acid | 0.11 mmol, 16.71 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro(1,1′-bis(diphenylphosphino) ferrocene)palladium (II) dichloromethane adduct | 0.005 mmol, 3.65 mg | [CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | cis-2,6-Dimethyl-piperazine-1-carboxylic acid 2,4-difluoro-2′-methoxy-biphenyl-3-ylmethyl ester | FC1=C(C=CC(=C1COC(=O)N1[C@H](CNC[C@H]1C)C)F)C1=C(C=CC=C1)OC | C21H24F2N2O3
